US04845201
By reacting 1.38 mmole of 1,4-diphenyl 1,3-butadiene with 5.52 m atoms of cerium as powder in 8 ml of DME, with temporary application of ultrasound, a solution of 1,4-diphenyl 1,3-butadiene cerium has been obtained. AFter action of a methanol excess and the usual treatment, 1,4-diphenylbutenes (three isomers) were isolated with a yield of 295.

reactant | 1,4-diphenyl 1,3-butadiene | 1.38 mmole | C1(=CC=CC=C1)C=CC=CC1=CC=CC=C1 | C16H14
reactant | cerium | [Ce] | Ce
solvent | DME | 8 ml | COCCOC | C4H10O2
product | 1,4-diphenyl 1,3-butadiene cerium | [Ce].C1(=CC=CC=C1)C=CC=CC1=CC=CC=C1 | InChI=1S/C16H14.Ce/c1-3-9-15(10-4-1)13-7-8-14-16-11-5-2-6-12-16;/h1-14H;
